US07423150B2
N-{4-[4-(methylamino)-3-nitrophenoxy](2-pyridyl)}-2-(4-methylpiperidyl)acetamide was hydrogenated in the presence of Pd/C for 4 hours. The catalyst was removed via filtration and filtrate was concentrated to give N-{4-[3-amino-4-(methylamino)phenoxy](2-pyridyl)}-2-(4-methylpiperidyl)acetamide. MS: MH+=370.2.

reactant | N-{4-[4-(methylamino)-3-nitrophenoxy](2-pyridyl)}-2-(4-methylpiperidyl)acetamide | CNC1=C(C=C(OC2=CC(=NC=C2)NC(CN2CCC(CC2)C)=O)C=C1)[N+](=O)[O-] | C20H25N5O4
catalyst | Pd/C | [Pd] | Pd
product | N-{4-[3-amino-4-(methylamino)phenoxy](2-pyridyl)}-2-(4-methylpiperidyl)acetamide | NC=1C=C(OC2=CC(=NC=C2)NC(CN2CCC(CC2)C)=O)C=CC1NC | C20H27N5O2
